US09120793B2
Ethyl (3S)-3-[4-[(2-bromo-[1,2,4]triazolo[1,5-a]pyridin-6-yl)methoxy]phenyl]hex-4-ynoate
To a stirred solution of (S)-ethyl 3-(4-hydroxyphenyl)hex-4-ynoate (1.4 g, 6.09 mmol) in DMF, is added cesium carbonate (5.9 g, 18.1 mmol) and 2-bromo-6-(chloromethyl)-[1,2,4]triazolo[1,5-a]pyridine (1.5 g, 6.09 mmol) and the reaction mixture is stirred at room temperature for 2 hours. The reaction mixture is quenched with ice cold water and extracted with EtOAc (2×200 mL). The organic extract is washed with brine (2×30 mL), dried over sodium sulphate, and concentrated. The crude material is purified by silica gel chromatography (combiflash purifier 10 g redisep column) eluting with 25% EtOAc in hexane to give the title compound as a yellow sticky oil (1.4 g, 54%). LCMS m/z 442 (M+H)+.

reactant | (S)-ethyl 3-(4-hydroxyphenyl)hex-4-ynoate | 6.09 mmol, 1.4 g | OC1=CC=C(C=C1)[C@H](CC(=O)OCC)C#CC | C14H16O3
reactant | cesium carbonate | 18.1 mmol, 5.9 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-bromo-6-(chloromethyl)-[1,2,4]triazolo[1,5-a]pyridine | 6.09 mmol, 1.5 g | BrC1=NN2C(C=CC(=C2)CCl)=N1 | C7H5BrClN3
solvent | DMF | CN(C)C=O | C3H7NO
product | Ethyl (3S)-3-[4-[(2-bromo-[1,2,4]triazolo[1,5-a]pyridin-6-yl)methoxy]phenyl]hex-4-ynoate | 1.4 g, 54% | BrC1=NN2C(C=CC(=C2)COC2=CC=C(C=C2)[C@H](CC(=O)OCC)C#CC)=N1 | C21H20BrN3O3
